US08748422B2
Dimethyl 2-aminoterephthalate (3.0 g, 14.34 mmol) and triphosgene (5.1 g, 17.22 mmol) were dissolved in toluene. Stirring was carried out at 110° C. for 6 hours under reflux to obtain 2-isocyanato-terephthalic acid dimethyl ester. After evaporating solvent, the compound was dissolved in 1,4-dioxane and triethylamine in vacuum state. After adding cyclohexylamine (2.5 mL, 21.5 mmol), stirring was carried out at 90° C. for 60 hours under reflux. After the reaction was completed, the produced solid was filtered with ether to obtain 1.75 g (37%) of 2-(3-cyclohexyl-ureido)-terephthalic acid dimethyl ester having a urea structure.

reactant | Dimethyl 2-aminoterephthalate | 14.34 mmol, 3.0 g | NC1=C(C(=O)OC)C=CC(=C1)C(=O)OC | C10H11NO4
reactant | triphosgene | 17.22 mmol, 5.1 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-isocyanato-terephthalic acid dimethyl ester | COC(C1=C(C=C(C(=O)OC)C=C1)N=C=O)=O | C11H9NO5
